US04707483
By the procedure of Example 2, 3-acetyl-8-chlorosulfonyl-7-methoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine is treated with ammonium hydroxide followed by hydrochloric acid to give 7-methoxy-1-phenyl-8-sulfamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride.

reactant | 3-acetyl-8-chlorosulfonyl-7-methoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | C(C)(=O)N1CCC2=C(C(C1)C1=CC=CC=C1)C=C(C(=C2)OC)S(=O)(=O)Cl | C19H20ClNO4S
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
product | 7-methoxy-1-phenyl-8-sulfamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | Cl.COC1=CC2=C(C(CNCC2)C2=CC=CC=C2)C=C1S(N)(=O)=O | InChI=1S/C17H20N2O3S.ClH/c1-22-16-9-13-7-8-19-11-15(12-5-3-2-4-6-12)14(13)10-17(16)23(18,20)21;/h2-6,9-10,15,19H,7-8,11H2,1H3,(H2,18,20,21);1H
